US07115611B2
J] (2-(3-Methoxy-propyl)-4-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-amino}-phenoxy)-acetic acid
0.125 g (0.24 mmol) of the above prepared (2-(3-methoxy-propyl)-4-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester was dissolved in 1.44 ml of THF/EtOH=1/1, treated with 0.72 ml (3 eq.) of 1N NaOH, and kept at ambient temperature for 0.5 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the organic layer washed with water, dried over sodium sulfate, and evaporated to dryness. Crystallization from hexane/AcOEt produced finally 0.102 g of the title compound as off-white crystals of mp. 72–73° C.

reactant | (2-(3-methoxy-propyl)-4-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)CCCOC)=O | C29H33F3N2O4
reactant | NaOH | 1N, 0.72 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 1.44 ml | C1CCOC1.CCO
product | (2-(3-Methoxy-propyl)-4-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-amino}-phenoxy)-acetic acid | 0.102 g | COCCCC1=C(OCC(=O)O)C=CC(=C1)N(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C | C27H29F3N2O4
